*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-801
* Inductance = 800nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1250-801_freq port1 port2 PARAMS: Cpar=2.86pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=2
+ R2=0.00235
+ C= {Cpar}
+ K1=0.000001
+ K2=0.043
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=440.506631
.ends MLC1250-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-801
* Inductance = 800nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1250-801_imp port1 port2 PARAMS: Cpar=2.838pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=2
+ R2=0.00235
+ C= {Cpar}
+ K1=0.000001
+ K2=0.043
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=440.506631
.ends MLC1250-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1250-132_freq port1 port2 PARAMS: Cpar=4pF Ind=1.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=16
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.075
+ K3= {Ind}
+ K4=0.003
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=609.587118
.ends MLC1250-132_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1250-132_imp port1 port2 PARAMS: Cpar=3.946pF Ind=1.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=16
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.075
+ K3= {Ind}
+ K4=0.003
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=609.587118
.ends MLC1250-132_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
